US07491729B2
B8) 3-Piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine
Preparation took place by hydrogenation of 3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine with palladium on carbon in ethanol with the addition of hydrochloric acid.

reactant | 3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine | N1CCC(=CC1)C1=CNC2=NC=CC=C21 | C12H13N3
reactant | hydrochloric acid | Cl | ClH
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3-Piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine | N1CCC(CC1)C1=CNC2=NC=CC=C21 | C12H15N3
